US07723345B2
1-(3,4-Difluorophenyl)-2,2,2-trifluoroethanol (0.1 g, 0.471 mmol) was treated with NaH (60% in mineral oil, 38 mg, 0.943 mmol) in dry THF (3 ml) for 30 minutes. 2-Amino-4,6-dichloropyrimidine (77 mg, 0.471 mmol) was added and the mixture was stirred at 50° C. for 6 hours. The mixture was quenched with water and extracted with methylenechloride (2×). The organics were combined, washed with water, then brine, dried over MgSO4, and concentrated to give 0.14 g of 4-chloro-6-(1-(3,4-difluorophenyl)-2,2,2-trifluoroethoxy)-pyrimidin-2-amine.

reactant | 1-(3,4-Difluorophenyl)-2,2,2-trifluoroethanol | 0.471 mmol, 0.1 g | FC=1C=C(C=CC1F)C(C(F)(F)F)O | C8H5F5O
reactant | NaH | 0.943 mmol, 38 mg | [H-].[Na+]
reactant | 2-Amino-4,6-dichloropyrimidine | 0.471 mmol, 77 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-chloro-6-(1-(3,4-difluorophenyl)-2,2,2-trifluoroethoxy)-pyrimidin-2-amine | 0.14 g | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC(=C(C=C1)F)F)N | C12H7ClF5N3O
